Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Cough, Shortness of breath

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ pmh ___ disease, bilateral blindness, HTN, h/o of 
bronchitis and RAD brought to the ER by her son  the ___ because
of refractory wheezing  in ___ observation for cough and 
wheezing.
Has seen urgent care on ___ where she started prednisone with
taper and recently tapered down to 20mg daily that resulted in
exacerbation in her wheezing, cough, phlegm per her son that is
at bedside and provides the majority of the history. She has 
been
seen in Pulmonary clinic at ___ in ___ for an
abbreviated visit where she was continued on fluticasone,
duonebs, and considered PFTS but patient was unable to 
cooperate.
She was thought to have breathing difficulties also from her
kyphosis. She denies fevers or chills, abd pain, n/v/d, dysuria. 


In the ___ she was given nebulizer treatments and admitted as she
had "failed" observation in the ___ in the eyes of her son and ___
physician and been to urgent care several times over the last
several months for similar complaints. On arrival to the floor
she was apparently doing much better with less wheezing per the
son. He feels this all was tripped off when she lowered her of
Prednisone dose from 40-->20mg daily. 

 
Past Medical History:
___ Disease
HTN
Bronchitis 
Bilateral blindness
 
Social History:
___
Family History:
non contributory and reviewed.
 
Physical Exam:
Admission Exam:
General: Lying in bed no acute distress, winter hat on, legally
blind and not making eye contact. Alert and oriented able to
answer questions. 
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated,
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Mildly decreased breath sounds at left base with 
scattered
wheezing throughout posterior lung fields. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema, 
Skin: no edema, no erythema
Neuro: CNII-XII grossly intact, moving all extremities with 
purpose, bilateral hand tremors at rest, increased upper 
extremity rigidity with passive ROM

Discharge Exam:
VS: 98.1PO ___ 20 96% on RA 
General: Lying in bed no acute distress, legally blind and not 
making eye contact. Alert and oriented able to answer questions. 

HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Mildly decreased breath sounds at left base with 
scattered
rhonchi throughout posterior lung fields. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema, 
Skin: no edema, no erythema
Neuro: CNII-XII grossly intact, moving all extremities with 
purpose, bilateral hand tremors at rest, increased upper 
extremity rigidity with passive ROM
 
Pertinent Results:
ADMISSION LABS
--------------
___ 10:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:20PM   LACTATE-2.6*
___ 09:00PM   GLUCOSE-147* UREA N-19 CREAT-0.6 SODIUM-132* 
POTASSIUM-4.5 CHLORIDE-93* TOTAL CO2-24 ANION GAP-20
___ 09:00PM   WBC-16.4* RBC-3.74* HGB-11.3 HCT-34.5 MCV-92 
MCH-30.2 MCHC-32.8 RDW-13.4 RDWSD-45.3

IMAGING
-------
CXR ___ : No interval change

DISCHARGE LABS
--------------
___ 07:05AM BLOOD WBC-14.0* RBC-3.39* Hgb-10.2* Hct-31.9* 
MCV-94 MCH-30.1 MCHC-32.0 RDW-13.6 RDWSD-46.5* Plt ___
___ 07:05AM BLOOD Neuts-68.7 ___ Monos-7.7 Eos-0.7* 
Baso-0.1 Im ___ AbsNeut-9.57* AbsLymp-3.10 AbsMono-1.07* 
AbsEos-0.10 AbsBaso-0.02
___ 07:05AM BLOOD Glucose-113* UreaN-18 Creat-0.5 Na-134 
K-4.1 Cl-95* HCO3-28 AnGap-15
___ 07:05AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.___ year old female with history of ___ disease, 
bilateral blindness, hypertension, history of  bronchitis and 
RAD brought to the ER by her son due to refractory wheezing and 
cough, likely chronic exacerbation of reactive airway disease 
and perhaps bronchiectasis. Patient did have CTA of chest in 
___ that had limited examination of lung parenchyma due 
to motion. She would likely benefit from outpatient pulmonary 
follow-up and treatment of lung inflammation with prednisone, 
nebulizers, and Azithromycin.  There was low suspicion for 
clinical pneumonia given no fevers and clear CXR. Flu swab was 
negative. .

# Reactive airway disease exacerbation
# Bronchitis:  patient was much improved on arrival to floor. 
She will likely benefit from Pulmonary consult to consider 
chronic treatment for bronchiectasis.  She was resumed on 
Prednisone 40 mg daily for 5 days, then was ordered for a taper 
given that she has been on high-dose prednisone for over a week. 
 She was placed on doxycyline 5 day course.  Nebulizers were 
continued.  She was given a prescription for inhaled 
fluticasone.  She may benefit from a long-acting beta 2 agonist 
as an outpatient.  She was off oxygen upon arrival to the floor, 
and had normal saturation on ambulation.  She was instructed to 
follow up with her PCP ___ ___ days of discharge, where her 
improvement can be monitored and taper modified if there is a 
need for this.

# Weight loss: patient has lost eight pounds over the last year. 
 This should be followed up as an outpatient.  She was 
instructed to use Ensure supplementation at home.

# Hypertension: continued Metoprolol 12.5
# GERD: continued Omeprazole 40 mg Daily
# ___ disease: continued Carbidopa-Levodopa

TRANSITIONS OF CARE
-------------------
# Follow-up: She was instructed to follow up with her PCP ___ 
___ days of discharge, where her improvement can be monitored 
and taper modified if there is a need for this.  She was resumed 
on Prednisone 40 mg daily for 5 days, then was ordered for a 
taper given that she has been on high-dose prednisone for over a 
week.  Weight loss should be followed up as an outpatient.  She 
was instructed to use Ensure supplementation at home.

# Code Status: Full Code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing, dyspnea, 
cough 
2. Atorvastatin 20 mg PO QPM 
3. Carbidopa-Levodopa (___) 1.5 TAB PO QID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Ipratropium Bromide Neb 1 NEB IH Q6H 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
10. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
11. Levothyroxine Sodium 25 mcg PO DAILY 
12. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
13. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
indigestion 
14. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Prior to 
ambulation 
15. Vitamin D ___ UNIT PO DAILY 
16. Furosemide 20 mg PO DAILY 
17. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*8 Tablet Refills:*0 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ mL by mouth every six (6) hours 
Refills:*0 
3.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
Start: Today - ___, First Dose: 0800 
Take 8 pills of ones you have for 3 days; then 6 for 2 days; 
then 4 for 2 days; then 2 for 2 days 
This is dose # 1 of 4 tapered doses
Tapered dose - DOWN  
4.  PredniSONE 30 mg PO DAILY Duration: 2 Doses 
Take 8 pills of ones you have for 3 days; then 6 for 2 days; 
then 4 for 2 days; then 2 for 2 days 
This is dose # 2 of 4 tapered doses
Tapered dose - DOWN  
5.  PredniSONE 20 mg PO DAILY Duration: 2 Doses 
Take 8 pills of ones you have for 3 days; then 6 for 2 days; 
then 4 for 2 days; then 2 for 2 days 
This is dose # 3 of 4 tapered doses
Tapered dose - DOWN  
6.  PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Take 8 pills of ones you have for 3 days; then 6 for 2 days; 
then 4 for 2 days; then 2 for 2 days 
This is dose # 4 of 4 tapered doses
Tapered dose - DOWN  
7.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
8.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing, 
dyspnea, cough  
9.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
indigestion  
10.  Atorvastatin 20 mg PO QPM  
11.  Carbidopa-Levodopa (___) 1.5 TAB PO QID  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 puffs IH twice 
a day Disp #*1 Inhaler Refills:*0 
13.  Furosemide 20 mg PO DAILY  
14.  Ipratropium Bromide Neb 1 NEB IH Q6H  
15.  Levothyroxine Sodium 25 mcg PO DAILY  
16.  Metoprolol Succinate XL 12.5 mg PO DAILY  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Omeprazole 40 mg PO DAILY  
19.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Prior to 
ambulation  
20.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
21.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Bronchitis/Reactive airway disease
Weight loss

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent admission at 
___.  You presented with wheezing, and it was thought likely 
that you have bronchitis.  You were continued on high-dose 
steroids, nebulizers and an antibiotic called doxycycline.  You 
improved shortly after admission.

Please discuss the 8-pound weight loss you have experienced over 
the last year with your primary care doctor.  We recommend that 
you take three Ensure supplements per day to help increase your 
calorie intake.

It is important that you take all medications as prescribed and 
follow up with any appointments listed below.

Good luck!
 
Followup Instructions:
___